US04521338
(1a) Preparation of "dimeric" diphenylmethane diisocyanate according to known methods
1.5 g of tributyl phosphine were added at room temperature to a solution of 1,000 g (4.0 mols) of diphenylmethane-4,4'-diisocyanate (MDI) in 2,000 g of toluene. After a short time, the dimeric MDI separated out of the solution and the temperature gradually rose to from 30° to 35° C. The reaction mixture was stirred for an additional 4 hours and the dimerization catalyst was then stopped by adding 1.5 g of toluene sulfonic acid methyl ester. The solid MDI "dimer" which formed was filtered by suction. After drying for about 5 hours at from 70° to 80° C., about 800 g of MDI "dimer" were obtained in the form of a fine powder. This powder was insoluble in practically all solvents. The decomposition point was above 250° C.

reactant | tributyl phosphine | 1.5 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | diphenylmethane-4,4'-diisocyanate | 4.0 mols, 1,000 g | C1=CC(=CC=C1CC2=CC=C(C=C2)N=C=O)N=C=O | C15H10N2O2
solvent | toluene | 2,000 g | C1(=CC=CC=C1)C | C7H8
product | diphenylmethane diisocyanate | [N-]=C=O.[N-]=C=O.C1(=CC=CC=C1)CC1=CC=CC=C1 | InChI=1S/C13H12.2CNO/c1-3-7-12(8-4-1)11-13-9-5-2-6-10-13;2*2-1-3/h1-10H,11H2;;/q;2*-1
